US07485644B2
The 1-(methylsulfonyl)-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine (2.85 g, 0.008 mol) was dissolved in anhydrous THF (200 ml) and cooled to −10° C. under an argon atmosphere. 1.0M solution of lithium bis(trimethylsilyl)amide in THF (17.6 ml, 0.0176 mol) was added with cooling to −30° C. and the mixture added a solution of methyl-tetrahydro-2H-pyran-4-carboxylate (CAS Number 110238-91-0) in THF (2 ml). This was allowed to reach room temperature and stirred for 2 hours. The reaction was quenched with saturated NH4Cl solution and diluted with H2O and ethyl acetate. The organic phase was collected, dried over MgSO4, filtered and evaporated to dryness to yield crude 2-({4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazin-1-yl}sulfonyl)-1-(tetrahydro-2H-pyran-4-yl)ethanone. (3.64 g, 97%)

reactant | 1-(methylsulfonyl)-4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazine | 0.008 mol, 2.85 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OC(C(F)F)(F)F | C13H16F4N2O3S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl-tetrahydro-2H-pyran-4-carboxylate | COC(=O)C1CCOCC1 | C7H12O3
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 0.0176 mol, 17.6 ml | C1CCOC1 | C4H8O
product | 2-({4-[4-(1,1,2,2-tetrafluoroethoxy)phenyl]piperazin-1-yl}sulfonyl)-1-(tetrahydro-2H-pyran-4-yl)ethanone | FC(C(F)F)(OC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)CC(=O)C1CCOCC1)F | C19H24F4N2O5S
